US05574178
2,6-Di-tert-butyl-3-methyl-4-tetrahydropyranyloxyphenol (4.4 g) was dissolved in anhydrous tetrahydrofuran (50 ml) and a n-hexane solution (1.1 eq.) of n-butyllithium was added dropwise at 0° C. under a nitrogen atmosphere. After stirring the mixture for 30 min, acetyl chloride (1.08 ml, 1.1 eq.) was added and the mixture was allowed to warm to room temperature. After stirring for 3 h, the reaction mixture was poured into a saturated aqueous solution of ammonium chloride and the mixture was subjected to extraction with diethyl ether. The extract was washed with water and saturated brine, then dried over anhydrous sodium sulfate and the solvent was distilled off. The residue was purified by silica gel chromatography (10% ethyl acetate in n-hexane) to afford 1-acetoxy-2,6-di-tert-butyl-3-methyl-4-tetrahydropyranyloxybenzene [4.09 g (yield, 82.2%)] as a colorless crystal. Mass 362(M+)

reactant | 2,6-Di-tert-butyl-3-methyl-4-tetrahydropyranyloxyphenol | 4.4 g | C(C)(C)(C)C1=C(C(=CC(=C1C)OC1OCCCC1)C(C)(C)C)O | C20H32O3
reactant | n-hexane | 1.1 eq. | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | acetyl chloride | 1.08 ml, 1.1 eq. | C(C)(=O)Cl | C2H3ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-acetoxy-2,6-di-tert-butyl-3-methyl-4-tetrahydropyranyloxybenzene | 4.09 g, 82.2% | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)OC1OCCCC1)C)C(C)(C)C | C22H34O4
